US04477671
3-Hydroxy-6-(1-hydroxy-2-tert-butylaminoethyl)-2-methylpyridine dihydrochloride
Into a 500 ml. Parr bottle there was introduced 13.4 g. (0.04 mole) of 3-hydroxy-6-(1-hydroxy-2-tert-butylaminoethyl)-2-hydroxymethylpyridine N-oxide dihydrochloride and 6.5 g. of 5% palladium on carbon catalyst in 150 ml. of methanol. Under a hydrogen pressure of 43 psi the mixture was shaken at room temperature for two days. The catalyst was removed by filtration under a nitrogen atmosphere followed by removal of the solvent in vacuo to give an oil which was triturated with isopropanol to induce crystallization. Filtration of the resulting solid affored 3-hydroxy-6-(1-hydroxy-2-tert-butylaminoethyl)-2-methylpyridine dihydrochloride, 10.0 g. (85%) m.p. 226°-228.5° C. (dec.); NMR (DMSO d6) delta 7.80 (q, 2H, pyridyl H), 5.40 (br m, 1H); 3.30 (br m, 2H), 2.60 (s, 3H, 2-CH3) and 1.35 (s, 9H, t-Bn).

reactant | 3-hydroxy-6-(1-hydroxy-2-tert-butylaminoethyl)-2-hydroxymethylpyridine N-oxide dihydrochloride | 0.04 mole | Cl.Cl.OC=1C(=[N+](C(=CC1)C(CNC(C)(C)C)O)[O-])CO
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-Hydroxy-6-(1-hydroxy-2-tert-butylaminoethyl)-2-methylpyridine dihydrochloride | Cl.Cl.OC=1C(=NC(=CC1)C(CNC(C)(C)C)O)C | InChI=1S/C12H20N2O2.2ClH/c1-8-10(15)6-5-9(14-8)11(16)7-13-12(2,3)4;;/h5-6,11,13,15-16H,7H2,1-4H3;2*1H
